US04239762
7.8 g (0.05 mol) of 1,3-dimethylbarbituric acid were suspended in 150 ml of dioxane and 5 g (0.05 mol) of triethylamine, and 11.85 g (0.05 mol) of 3-chloro-4-trifluoromethoxy-phenyl isocyanate were added. The mixture was stirred for 5 hours under reflux. When it had cooled, the reaction mixture was brought to a pH value of 3 with 2 N hydrochloric acid and was concentrated in vacuo by distilling off the solvent. The residue was mixed with 200 ml of water, filtered off, mixed with 100 ml of isopropanol, again filtered off and dried. 16.5 g (74% of theory) of 5-(3'-chloro-4'-trifluoromethoxy-phenyl-carbamoyl)-1,3-dimethyl-barbituric acid, of melting point 160° C., were obtained.

reactant | 1,3-dimethylbarbituric acid | 0.05 mol, 7.8 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
reactant | triethylamine | 0.05 mol, 5 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-trifluoromethoxy-phenyl isocyanate | 0.05 mol, 11.85 g | ClC=1C=C(C=CC1OC(F)(F)F)N=C=O | C8H3ClF3NO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5-(3'-chloro-4'-trifluoromethoxy-phenyl-carbamoyl)-1,3-dimethyl-barbituric acid | 16.5 g, 74% | ClC=1C=C(C=CC1OC(F)(F)F)NC(=O)C1C(N(C(N(C1=O)C)=O)C)=O | C14H11ClF3N3O5
